US07754737B2
To a solution of (S)-2-(tert-butoxycarbonylamino)-4-methoxy-4-methylpentyl methane-sulfonate (1.08 g, 2.99 mmol) in MeOH was added methylamine in methanol (33 wt %, 4.0 mL). The resulting solution was heated in CEM microwave reactor at 120° C. for 5 min. Reaction completion was confirmed by LC-MS. Solvent was removed under vacuum to give a crude (S)-tert-butyl 4-methoxy-4-methyl-1-(methylamino)pentan-2-ylcarbamate, which was used for the next step without purification. MS m/z 261 (M+H+).

reactant | (S)-2-(tert-butoxycarbonylamino)-4-methoxy-4-methylpentyl methane-sulfonate | 2.99 mmol, 1.08 g | CS(=O)(=O)OC[C@H](CC(C)(C)OC)NC(=O)OC(C)(C)C | C13H27NO6S
reactant | methylamine | CN | CH5N
solvent | MeOH | CO | CH4O
solvent | methanol | 4.0 mL | CO | CH4O
product | (S)-tert-butyl 4-methoxy-4-methyl-1-(methylamino)pentan-2-ylcarbamate | COC(C[C@@H](CNC)NC(OC(C)(C)C)=O)(C)C | C13H28N2O3
